US07067529B2
The above 1-(3-methoxybenzyl)-6,7-dimethoxyisoquinoline-4-carboxylic acid ethyl ester (1.50 g, 3.94 mmol) was dissolved into 30 ml of THF. To this solution was added lithium aluminum hydride (240 mg, 6.49 mmol). The mixture was refluxed for 30 minutes and then poured into ice and extracted with methylene chloride and saturated ammonium chloride solution. The organic layer was dried with sodium sulfate and solvents were evaporated. The residue was washed with ether to give a white solid 1-(3-methoxybenzyl)-4-hydroxymethyl-6,7-dimethoxyisoquinoline (1.13 g, 85%). ES-MS calculated for C20H21O4N (m/e) 339.39, observed 340.5 (M+1). 1H-NMR is consistent with the desired structure.

reactant | 1-(3-methoxybenzyl)-6,7-dimethoxyisoquinoline-4-carboxylic acid ethyl ester | 3.94 mmol, 1.50 g | C(C)OC(=O)C1=CN=C(C2=CC(=C(C=C12)OC)OC)CC1=CC(=CC=C1)OC | C22H23NO5
reactant | lithium aluminum hydride | 6.49 mmol, 240 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-(3-methoxybenzyl)-4-hydroxymethyl-6,7-dimethoxyisoquinoline | 1.13 g, 85% | COC=1C=C(CC2=NC=C(C3=CC(=C(C=C23)OC)OC)CO)C=CC1 | C20H21NO4
